US07906677B2
A solution of 3.91 g 2-chloro-6-fluoro-aniline in 4 ml of tetrahydrofuran and 35 ml of chlorobenzene is cooled down to −40 to −45° C. At this temperature, 5.09 g of titanium-tetrachloride is added to the solution, followed by the addition of 5.0 g of 1-Methoxy-4-methylcyclohexa-1,4-diene. The reaction mixture is allowed to warm up to approx. −35° C. and stirred for 2 hours at this temperature. A solution of 10.18 g of iodine in 20 ml of tetrahydrofuran and 2.3 ml of acetic acid is then added drop-wise to the reaction mixture and the temperature was allowed to warm up to 0° C. The mixture was stirred for 1 hour at 0° C. and 16 hours at 25° C. Then 3.4 g of iodine is added to the reaction mixture and stirring is continued for additional 24 hours at 25° C. The reaction is finally quenched by pouring the reaction mixture onto a mixture of 250 ml of aeq. Sodium bisulfite (38-40%) and 400 ml of saturated aeq. sodium carbonate. The aqueous phase is extracted with ethyl acetate (1×200 ml and 2×100 ml), the ethyl acetate phases are unified and washed with 100 ml of water. The organic phase was dried over anhydrous sodium sulfate and evaporated in vacuo to give a yellow viscous liquid. The liquid was dissolved in hexane/t-butyl-methylether and the solution was filtered over silica gel to obtain, after evaporation of the solvent, 4.33 g of crude product. The product can be used directly in the next step. Alternatively, it can be purified e.g. by column chromatography on silica gel with hexane/t-butyl-methylether (9:1) as eluent to yield pure N-(2′-chloro-6′-fluoro-phenyl)-4-methylaniline.

reactant | 2-chloro-6-fluoro-aniline | 3.91 g | ClC1=C(N)C(=CC=C1)F | C6H5ClFN
reactant | 1-Methoxy-4-methylcyclohexa-1,4-diene | 5.0 g | COC1=CCC(=CC1)C | C8H12O
reactant | iodine | 10.18 g | II | I2
reactant | iodine | 3.4 g | II | I2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | chlorobenzene | 35 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 2.3 ml | C(C)(=O)O | C2H4O2
solvent | hexane t-butyl-methylether | CCCCCC.C(C)(C)(C)OC
catalyst | titanium-tetrachloride | 5.09 g | [Ti](Cl)(Cl)(Cl)Cl
product | N-(2′-chloro-6′-fluoro-phenyl)-4-methylaniline | ClC1=C(C(=CC=C1)F)NC1=CC=C(C=C1)C | C13H11ClFN
